US06235731B1
1) Synthesis of N-[4-(3-phenylpropan-1-yl)piperazin-1-ylcarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a suspension of 1.0 g (4.58 mmol.) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 1.05 g (9.12 mmol.) of N-hydroxysuccinimide in acetonitrile (20 ml) was added, at room temperature, 1.76 g (9.18 mmol.) of N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide.hydrochloride. The mixture was stirred for 1.5 hour. To the reaction system was added a solution of 1.68 g (5.03 mmol.) of 1-aminoacetyl-4-(3-phenylpropan-1-yl)piperazine dihydrochloride, 1.53 g (10.05 mmol.) of 1,8-diazabicyclo[5.4.0]unde-7-cene (DBU) and 0.7 ml (5.02 mmol.) of triethylamine in acetonitrile (15 ml). The mixture was stirred for further 2 hours. The solvent was distilled off under reduced pressure. To the residue was added water. The mixture was subjected to extraction with ethyl acetate (a small volume of ethanol was also used). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous saline solution, which was dried over magnesium sulfate. The solvent was distilled off under reduced pressure to leave a crude product, which was purified by means of a column chromatography (methanol/ethyl acetate 30-50%) to afford the object compound as a reddish amorphous substance. The yield was 1.32 g (62%).

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 4.58 mmol, 1.0 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 9.12 mmol, 1.05 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | N-ethyl-N′-3-(N,N-dimethylamino)propylcarbodiimide.hydrochloride | 9.18 mmol, 1.76 g | Cl.C(C)N=C=NCCCN(C)C
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | triethylamine | 5.02 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[4-(3-phenylpropan-1-yl)piperazin-1-ylcarbonylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C1(=CC=CC=C1)CCCN1CCN(CC1)C(=O)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H27N5O2S
